US07872022B2
b) 1-Benzyl-5-(3,5-bis-trifluoromethyl-benzyloxymethyl)-4-o-tolyl-1,2,3,6-tetrahydro-pyridine
A solution of 1-benzyl-3-(3,5-bis-trifluoromethyl-benzyloxymethyl)-4-o-tolyl-pyridinium bromide (163 mg, 0.273 mmol) in 6 ml of ethanol was added sodium borohydride (10 mg, 0.26 mmol) at 0° C. The mixture was heated to 35° C. and stirred at this temperature over night. Another portion of sodium borohydride (10 mg, 0.26 mmol) was added and the mixture was heated to 50° C. for 2 h. After cooling to room temperature and quenching with water the mixture was diluted with a saturated aqueous solution of sodium carbonated and extracted with three portions of tert-butyl methyl ether. The combined organic layers were dried over sodium sulfate and concentrated in vacuo. Flash column chromatography gave 78 mg (55%) of the title compound as a light yellow oil.

reactant | 1-benzyl-3-(3,5-bis-trifluoromethyl-benzyloxymethyl)-4-o-tolyl-pyridinium bromide | 0.273 mmol, 163 mg | [Br-].C(C1=CC=CC=C1)[N+]1=CC(=C(C=C1)C1=C(C=CC=C1)C)COCC1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F
reactant | sodium borohydride | 0.26 mmol, 10 mg | [BH4-].[Na+]
reactant | sodium borohydride | 0.26 mmol, 10 mg | [BH4-].[Na+]
solvent | ethanol | 6 ml | C(C)O | C2H6O
product | 1-Benzyl-5-(3,5-bis-trifluoromethyl-benzyloxymethyl)-4-o-tolyl-1,2,3,6-tetrahydro-pyridine | 78 mg, 55% | C(C1=CC=CC=C1)N1CCC(=C(C1)COCC1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)C1=C(C=CC=C1)C | C29H27F6NO
